US06028223
A solution of N-(tert-butoxycarbonyl)-L-methionine (6.2 g) in DMF (25 ml) and pyridine (25 ml) was treated with DSC (9.6 g) and a catalytic amount of DMAP. After 4 hours, a solution of β-alanine ethyl ester HCl (3.8 g) and K2CO3 (3.5 g) in saturated aqueous NaHCO3 (25 ml) was added. The reaction mixture was stirred overnight at room temperature. The excess solvent was removed under reduced pressure and purified by HPLC (RP--CH3CN/H2O). N-[2-[[(1,1-dimethylethoxy)carbonyl]-amino]-4-(methylthio)-1-oxobutyl]-β-alanine, ethyl ester (7.0 g) as a colorless oil was obtained. The oil was confirmed as the desired product by MS and used without further purification.

reactant | N-(tert-butoxycarbonyl)-L-methionine | 6.2 g | C(C)(C)(C)OC(=O)N[C@@H](CCSC)C(=O)O | C10H19NO4S
reactant | β-alanine ethyl ester HCl | 3.8 g | Cl.C(C)OC(CCN)=O
reactant | K2CO3 | 3.5 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | NaHCO3 | 25 ml | C(=O)(O)[O-].[Na+]
product | N-[2-[[(1,1-dimethylethoxy)carbonyl]-amino]-4-(methylthio)-1-oxobutyl]-β-alanine, ethyl ester | 7.0 g | CC(C)(OC(=O)NC(C(=O)NCCC(=O)OCC)CCSC)C | C15H28N2O5S
